US05886016
A solution of 3-methylbenzyl alcohol (4.93 g, 40 mmol), chloroacetic acid (7.68 g, 81 mmol), and ethanol (0.04 mL) in 100 mL of anhydrous tetrahydrofuran was added to a mixture of sodium hydride (16.12 g, 403 mmol) in 50 mL anhydrous tetrahydrofuran dropwise over 55 minutes at 0° C. The cooling bath was removed and the solution was heated to reflux for 14.25 hours. The solution was cooled to room temperature, quenched with water and extracted with ether. The aqueous layer was acidified, extracted with ether, washed with brine, dried over MgSO4, and concentrated in vacuo to give (3-methylphenyl)-3-oxo-propanoic acid as an orange oil (6.58 g) which also contained chloroacetic acid. The oil was used in the next step without purification.

reactant | 3-methylbenzyl alcohol | 40 mmol, 4.93 g | CC=1C=C(CO)C=CC1 | C8H10O
reactant | chloroacetic acid | 81 mmol, 7.68 g | ClCC(=O)O | C2H3ClO2
reactant | ethanol | 0.04 mL | C(C)O | C2H6O
reactant | sodium hydride | 403 mmol, 16.12 g | [H-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (3-methylphenyl)-3-oxo-propanoic acid | 6.58 g | CC=1C=C(C=CC1)C(C(=O)O)C=O | C10H10O3
